### PR TITLE
L tensor K_v -> \oplus_{w|v} L_w is surjective

### PR DESCRIPTION
**Pull request by matthewjasper**
Uses the results from #400 to generalize the surjectivity result from  #374 to the map to the product.

Part of  #231

### CODE REVIEW

**Comment by kbuzzard** [comment]
Thanks! I've been doing a bunch of infrastructure work on the project today, trying to get it to lint, I'm sorry I broke your proof! As from now it's much harder to pass CI, there are several new checks. To get past the current error, run `lake exe mk_all` and commit the changes to FLT.lean.

File: FLT/DedekindDomain/AdicValuation.lean [hunk 1]
```diff
@@ -14,13 +14,16 @@ topological `A`-algebras. This file makes some progress towards this.
 
 ## Main theorems
 
-* `FiniteAdeleRing.closureAlgebraMapIntegers_eq_integers` : The closure of `A` in `K_v` is `𝒪_v`.
+* `HeightOneSpectrum.closureAlgebraMapIntegers_eq_integers` : The closure of `A` in `K_v` is `𝒪_v`.
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:17]:
```suggestion
* `IsDedekindDomain.HeightOneSpectrum.closureAlgebraMapIntegers_eq_integers` : The closure of `A` in `K_v` is `𝒪_v`.
```
and the same for the other two, except that this might trigger the long line linter. I guess you could instead say "In the `IsDedekindDomain.HeightOneSpectrum` namespace:" and then drop HeightOneSpectrum

File: FLT/DedekindDomain/AdicValuation.lean [hunk 2]
```diff
@@ -300,4 +302,69 @@ theorem closureAlgebraMapIntegers_eq_prodIntegers {ι : Type*}
...
+theorem denseRange_of_prodAlgebraMap {ι : Type*} [Fintype ι]
+    {valuation : ι → HeightOneSpectrum A} (injective : Function.Injective valuation) :
+    DenseRange (algebraMap K ((i : ι) → (valuation i).adicCompletion K)) := by
+  rw [denseRange_iff_closure_range]
+  let S := Set.range (algebraMap K ((i : ι) → (valuation i).adicCompletion K))
+  let I := Set.pi Set.univ (fun (i : ι) ↦ ((valuation i).adicCompletionIntegers K).carrier)
+  -- We've already shown that the closure of `A` is `∏_{v ∈ s} 𝒪_v`, so
+  -- the closure of `K` at least contains this set.
+  have hint : I ⊆ closure S := by
+    unfold I
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:349]: I always think of `unfold` as a bit of a code smell. You can avoid it here with `set I := Set.Pi ... carrier) with hI` and then you can `rw [hI]`. But I'm not demainding this, I'm really just letting you know about the idiom.

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 3]
```diff
@@ -449,29 +481,21 @@ lemma prodAdicCompletionComap_isModuleTopology (v : HeightOneSpectrum A) :
...
+end ModuleTopology
 
 /-- The canonical map `L ⊗[K] K_v → ∏_{w|v} L_w` is bijective. -/
 theorem tensorAdicCompletionComapAlgHom_bijective (v : HeightOneSpectrum A) :
     Function.Bijective (tensorAdicCompletionComapAlgHom A K L B v) := by
-  sorry -- issue FLT#231; one proof is proof in blueprint at
+  show Function.Bijective (tensorAdicCompletionComapLinearMap A K L B v)
+  have hsurj := tensorAdicCompletionComapLinearMap_surjective A K L B v
+  refine ⟨?_, hsurj⟩
+  -- |- Function.Injective ⇑(tensorAdicCompletionComapLinearMap_completion A K L B v)
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:492]: `\|-` gives the unicode turnstile ;-)

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 4]
```diff
@@ -241,6 +242,120 @@ lemma adicCompletionComapSemialgHom.mapadicCompletionIntegers (v : HeightOneSpec
...
+def comap_algebra {v : HeightOneSpectrum A} {w : HeightOneSpectrum B} (h : w.comap A = v) :
+    Algebra (v.adicCompletion K) (w.adicCompletion L) :=
+  (adicCompletionComapSemialgHom A K L B v w h).toAlgebra
+
+/-- The canonical map `K_v → ∏_{w|v} L_w` extending K → L. -/
+noncomputable def adicCompletionComapSemialgHom' (v : HeightOneSpectrum A) :
+  v.adicCompletion K →ₛₐ[algebraMap K L] ∀ w : v.Extension B, w.1.adicCompletion L :=
+  Pi.semialgHom _ _ fun i ↦ adicCompletionComapSemialgHom A K L B v i.1 i.2
+
+set_option maxSynthPendingDepth 2 in
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:313]: I bet this isn't needed now -- I set the global default to 3.

**Review by kbuzzard — APPROVED** [review]
This is fine. I left some minor nits. If this was mathlib I'd maintainer-merge.
